US09108977B2
To a solution of 140 mg of t-butyl 11-ethyl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate in 1.86 ml of acetonitrile was added 0.12 ml of glycidylmethylether, followed by substitution with argon. In an ice-bath, 9 mg of ytterbium(III) trifluoromethanesulfonate was added thereto, followed by stirring at room temperature for 2 hours, then elevating the temperature to 50° C., and stirring overnight. To the reaction mixture were added EtOAc and aqueous sodium bicarbonate, and the organic layer was washed with water and saturated brine. The solvent was evaporated under reduced pressure and the resulting residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 147 mg of t-butyl 11-ethyl-1-(2-hydroxy-3-methoxypropyl)-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate.

reactant | t-butyl 11-ethyl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 140 mg | C(C)C=1C2=C(C=C3CCCNC13)CCN(CC2)C(=O)OC(C)(C)C | C20H30N2O2
reactant | glycidylmethylether | 0.12 ml | C(C1CO1)OC | C4H8O2
reactant | ytterbium(III) trifluoromethanesulfonate | 9 mg | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 1.86 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | t-butyl 11-ethyl-1-(2-hydroxy-3-methoxypropyl)-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 147 mg | C(C)C=1C2=C(C=C3CCCN(C13)CC(COC)O)CCN(CC2)C(=O)OC(C)(C)C | C24H38N2O4
